US05158971
5-(6,6,6-Trifluorohexyl)thiophene-2-aldehyde
To a solution of 2-(6,6,6-trifluorohexyl)thiophene (3.33 g) in dry tetrahydrofuran (30 ml) at -25° C. under nitrogen, was added n-butyllithium (8.2 ml, 2.5M) dropwise and the solution stirred at -25° C. for 2 hours. Dry dimethylformamide (2.34 ml) was then added dropwise and the solution stirred for a further hour, allowed to warm to room temperature and stirred for half hour. The reaction mixture was poured onto 2N hydrochloric acid (100 ml), extracted with ether (2×100 ml), dried over MgSO4 and evaporated under reduced pressure to give a brown oil. The oil was distilled under reduced pressure to give a yellow oil b.p. 114° C./1 mm.

reactant | 2-(6,6,6-trifluorohexyl)thiophene | 3.33 g | FC(CCCCCC=1SC=CC1)(F)F | C10H13F3S
reactant | n-butyllithium | 2.5M, 8.2 ml | C(CCC)[Li]
reactant | dimethylformamide | 2.34 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-(6,6,6-Trifluorohexyl)thiophene-2-aldehyde | FC(CCCCCC1=CC=C(S1)C=O)(F)F | C11H13F3OS
